US04012414
2-(5-Phenyl-2-furyl)imidazole Hydrochloride
A mixture of methyl 5-phenyl-2-furimidate hydrochloride (33 g, 0.14 mole), absolute alcohol (500 ml) and aminoacetaldehyde dimethyl acetal (15 g, 0.14 mole) was refluxed for 3 hr. The solvent was removed in a rotary evaporator and the residue was heated for 20 hr. at 63°-73° C with 3N HCl (400 ml). The solvent was decanted and the black viscous material was washed with water. It was purified by stirring with boiling acetonitrile and collected by filtration to give 4.1 g (9%). An analytical sample was prepared by recrystallization from acetonitrile m.p. >277° dec.

reactant | methyl 5-phenyl-2-furimidate hydrochloride | 0.14 mole, 33 g | Cl.C1(=CC=CC=C1)C1=CC=C(O1)C(OC)=N
reactant | aminoacetaldehyde dimethyl acetal | 0.14 mole, 15 g | COC(CN)OC | C4H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(5-Phenyl-2-furyl)imidazole Hydrochloride | Cl.C1(=CC=CC=C1)C1=CC=C(O1)C=1NC=CN1 | InChI=1S/C13H10N2O.ClH/c1-2-4-10(5-3-1)11-6-7-12(16-11)13-14-8-9-15-13;/h1-9H,(H,14,15);1H
